US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-hydroxyethyl)-N-methylcarbamoyl]phenyl}isoquinoline
Sequentially, the resulting 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-benzyloxyethyl)-N-methylcarbamoyl]phenyl}isoquinoline (0.69 g) was converted into a hydrochloride in a conventional manner and then dissolved in methanol (50 ml). To the resulting solution was added 10% palladium/carbon catalyst (0.20 g), and the catalytic reduction was conducted at atmospheric pressure overnight. The catalyst was filtered off, while the solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol system), to give 0.41 g of the free compound of the title compound as a pale yellow amorphous.

reactant | 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-benzyloxyethyl)-N-methylcarbamoyl]phenyl}isoquinoline | 0.69 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C(N(C)CCOCC1=CC=CC=C1)=O | C32H36N4O2
reactant | hydrochloride | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium/carbon | 0.20 g | [Pd] | Pd
product | 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-hydroxyethyl)-N-methylcarbamoyl]phenyl}isoquinoline | 0.41 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C(N(C)CCO)=O | C25H30N4O2
